*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.002/0.002
*-- die chiplet6:  metal layers: 2


.subckt chiplet6
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_1000_7000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 4.814e-01ns 0.0  5.314e-01ns 2.9e-02  6.972e-01ns 2.9e-02  7.472e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 14.3419
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.15573e-11
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 3.623e-01ns 0.0  4.123e-01ns 1.8e-02  8.223e-01ns 1.8e-02  8.723e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 10.8797
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 6.11444e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 8.191e-01ns 0.0  8.691e-01ns 2.2e-02  9.316e-01ns 2.2e-02  9.816e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 35.7084
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.9299e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 5.839e-02ns 0.0  1.084e-01ns 3.1e-03  4.648e-01ns 3.1e-03  5.148e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 71.1168
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 1.39287e-12
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 6.474e-02ns 0.0  1.147e-01ns 9.3e-03  8.927e-01ns 9.3e-03  9.427e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 11.7195
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 1.07707e-13
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 1.972e-01ns 0.0  2.472e-01ns 1.8e-02  3.039e-01ns 1.8e-02  3.539e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 46.4966
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 2.82187e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 7.832e-01ns 0.0  8.332e-01ns 5.6e-03  9.021e-01ns 5.6e-03  9.521e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 135.599
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 1.1828e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 7.943e-01ns 0.0  8.443e-01ns 5.2e-02  8.692e-01ns 5.2e-02  9.192e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 23.016
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 2.71958e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 2.592e-02ns 0.0  7.592e-02ns 1.6e-03  8.519e-01ns 1.6e-03  9.019e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 66.9418
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 1.38207e-12
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 1.677e-01ns 0.0  2.177e-01ns 2.0e-04  5.099e-01ns 2.0e-04  5.599e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 1302.28
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 1.76842e-14
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 1.704e-01ns 0.0  2.204e-01ns 7.2e-03  6.205e-01ns 7.2e-03  6.705e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 27.5825
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 4.50907e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 7.533e-01ns 0.0  8.033e-01ns 8.2e-02  8.315e-01ns 8.2e-02  8.815e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 13.9678
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 3.88099e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 8.918e-01ns 0.0  9.418e-01ns 1.5e-01  9.476e-01ns 1.5e-01  9.976e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 10.7678
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 7.90543e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 5.754e-01ns 0.0  6.254e-01ns 8.2e-03  9.025e-01ns 8.2e-03  9.525e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 33.4178
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 4.52967e-13
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 5.885e-01ns 0.0  6.385e-01ns 1.1e-01  6.404e-01ns 1.1e-01  6.904e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 15.2949
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 1.02524e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 7.180e-01ns 0.0  7.680e-01ns 2.7e-02  8.877e-01ns 2.7e-02  9.377e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 19.5951
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 2.33278e-12
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 8.534e-01ns 0.0  9.034e-01ns 8.1e-02  9.344e-01ns 8.1e-02  9.844e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 13.7924
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 5.55874e-12
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 8.805e-02ns 0.0  1.381e-01ns 2.7e-03  3.936e-01ns 2.7e-03  4.436e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 107.864
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 7.24404e-13
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 9.884e-02ns 0.0  1.488e-01ns 2.0e-02  5.211e-01ns 2.0e-02  5.711e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 10.6554
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 8.9602e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 1.714e-01ns 0.0  2.214e-01ns 6.2e-03  6.201e-01ns 6.2e-03  6.701e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 32.3995
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 3.85247e-12
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 3.086e-01ns 0.0  3.586e-01ns 1.4e-03  4.755e-01ns 1.4e-03  5.255e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 380.371
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 4.07037e-13
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 8.941e-01ns 0.0  9.441e-01ns 1.5e-01  9.454e-01ns 1.5e-01  9.954e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 11.4551
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.6152e-11
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 4.524e-01ns 0.0  5.024e-01ns 1.5e-02  8.871e-01ns 1.5e-02  9.371e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 13.5763
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 1.37551e-11
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 5.873e-01ns 0.0  6.373e-01ns 2.5e-02  7.975e-01ns 2.5e-02  8.475e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 16.8077
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 6.98432e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 7.228e-01ns 0.0  7.728e-01ns 9.4e-02  8.005e-01ns 9.4e-02  8.505e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 12.365
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 1.18949e-11
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 8.250e-01ns 0.0  8.750e-01ns 7.5e-02  9.334e-01ns 7.5e-02  9.834e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 11.0088
cs_0_0_0_0 ns_1_0_0_0_ci 0 1.29559e-11
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 3.867e-01ns 0.0  4.367e-01ns 2.2e-02  5.094e-01ns 2.2e-02  5.594e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 33.7675
cs_0_0_0_1 ns_1_0_2000_0_ci 0 5.10098e-12
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 3.937e-01ns 0.0  4.437e-01ns 1.0e-02  8.465e-01ns 1.0e-02  8.965e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 19.7867
cs_0_0_0_2 ns_1_0_4000_0_ci 0 3.77494e-12
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 5.322e-01ns 0.0  5.822e-01ns 1.5e-02  7.457e-01ns 1.5e-02  7.957e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 27.3171
cs_0_0_0_3 ns_1_0_6000_0_ci 0 1.58026e-13
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 6.621e-01ns 0.0  7.121e-01ns 3.3e-02  8.542e-01ns 3.3e-02  9.042e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 14.0873
cs_0_0_0_4 ns_1_0_8000_0_ci 0 2.37401e-12
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 7.996e-01ns 0.0  8.496e-01ns 6.6e-02  8.602e-01ns 6.6e-02  9.102e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 22.5098
cs_0_0_0_5 ns_1_0_0_2000_ci 0 2.87911e-12
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 8.084e-01ns 0.0  8.584e-01ns 3.7e-02  8.820e-01ns 3.7e-02  9.320e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 32.7846
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 5.06696e-12
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 3.897e-02ns 0.0  8.897e-02ns 1.5e-02  4.345e-01ns 1.5e-02  4.845e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 15.4059
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 1.27222e-11
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 1.783e-01ns 0.0  2.283e-01ns 5.0e-02  2.701e-01ns 5.0e-02  3.201e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 19.5546
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 6.48883e-12
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 3.095e-01ns 0.0  3.595e-01ns 2.5e-02  3.959e-01ns 2.5e-02  4.459e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 41.3322
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 3.77347e-12
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 7.718e-01ns 0.0  8.218e-01ns 6.8e-02  8.496e-01ns 6.8e-02  8.996e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 17.0895
cs_0_0_0_10 ns_1_0_0_4000_ci 0 3.39675e-12
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 6.855e-03ns 0.0  5.686e-02ns 1.0e-02  8.324e-01ns 1.0e-02  8.824e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 10.8229
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 1.73638e-11
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 5.909e-01ns 0.0  6.409e-01ns 2.2e-02  9.109e-01ns 2.2e-02  9.609e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 12.6068
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 3.66267e-13
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 6.666e-01ns 0.0  7.166e-01ns 6.4e-02  7.396e-01ns 6.4e-02  7.896e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 19.3791
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 1.77534e-12
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 8.045e-01ns 0.0  8.545e-01ns 2.8e-02  9.265e-01ns 2.8e-02  9.765e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 25.9306
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 6.3427e-12
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 3.454e-02ns 0.0  8.454e-02ns 9.3e-03  7.400e-01ns 9.3e-03  7.900e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 13.7298
cs_0_0_0_15 ns_1_0_0_6000_ci 0 4.86886e-12
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 4.945e-01ns 0.0  5.445e-01ns 4.8e-03  7.113e-01ns 4.8e-03  7.613e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 87.2529
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 2.2528e-12
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 1.788e-01ns 0.0  2.288e-01ns 6.4e-03  6.327e-01ns 6.4e-03  6.827e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 31.1438
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 4.05158e-12
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 3.161e-01ns 0.0  3.661e-01ns 9.6e-03  4.890e-01ns 9.6e-03  5.390e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 54.1518
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 2.90346e-12
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 8.000e-01ns 0.0  8.500e-01ns 3.8e-03  9.219e-01ns 3.8e-03  9.719e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 193.794
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 4.5172e-13
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 4.606e-01ns 0.0  5.106e-01ns 8.2e-03  8.912e-01ns 8.2e-03  9.412e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 25.3995
cs_0_0_0_20 ns_1_0_0_8000_ci 0 3.49164e-12
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 5.928e-01ns 0.0  6.428e-01ns 2.6e-02  8.009e-01ns 2.6e-02  8.509e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 16.5844
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 1.13045e-12
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 7.283e-01ns 0.0  7.783e-01ns 2.5e-02  8.925e-01ns 2.5e-02  9.425e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 21.6128
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 6.87321e-12
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 8.662e-01ns 0.0  9.162e-01ns 1.3e-01  9.221e-01ns 1.3e-01  9.721e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 12.3785
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 6.36351e-12
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 5.497e-01ns 0.0  5.997e-01ns 1.4e-02  8.892e-01ns 1.4e-02  9.392e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 18.6361
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 5.86194e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val156'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val157'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val158'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val159'
rd_add0 nd0 0 'esr35'
rd_add1 nd1 0 'esr36'
rd_add2 nd2 0 'esr37'
rd_add3 nd3 0 'esr38'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet6
